US06486156B1
1H NMR (CDCl3, 400 MHz) δ: 3.65 (3H, m); 4.15 (2H, m); 6.1-6.2 and 6.4-6.7 (2H, m); 7-7.95 (7H, m). n-Butyl lithium (1.6 M solution in ether, 30 ml) was added at −78° C. and under argon atmosphere to a solution of N-methylimidazole (3.2 ml; 40 mmol). After stirring at −78° C. for 45 minutes, zinc iodide (14 g; 44 mmol) in solution in THF (100 ml) was added. The mixture was allowed to warm to ambient temperature for 1 hour, cooled down to −78° C., and a solution of copper (I) cyanide (0.72 g; 8 mmol) and lithium chloride (0.68 g; 1.6 mmol) in THF (10 ml) was then added at −78° C. followed by a solution of methyl 2-(4-fluorophenyl)-4-(3-bromoprop-1-en-1-yl)benzoate (7 g; 20 mmol) in THF (50 ml). The mixture was stirred at −78° C., for 30 minutes and for 1 hour 30 minutes at room temperature. After evaporation of the solvent, the residue was treated with EDTA (17 g; 44 mmol) in distilled water (50 ml) and extracted with dichloromethane. The organic layer was evaporated and purified by flash chromatography eluting with dichloromethane/ethanol (98/2) to give methyl 4-[3-(1-methylimidazol-2-yl)prop-1-en-1-yl]-2-(4-fluorophenyl)benzoate as a mixture of E and Z isomers. Yield: 71%

reactant | n-Butyl lithium | 1.6 M, 30 ml | C(CCC)[Li]
reactant | N-methylimidazole | 40 mmol, 3.2 ml | CN1C=NC=C1 | C4H6N2
reactant | copper (I) cyanide | 8 mmol, 0.72 g | [Cu]C#N
reactant | lithium chloride | 1.6 mmol, 0.68 g | [Cl-].[Li+]
reactant | methyl 2-(4-fluorophenyl)-4-(3-bromoprop-1-en-1-yl)benzoate | 20 mmol, 7 g | FC1=CC=C(C=C1)C1=C(C(=O)OC)C=CC(=C1)C=CCBr | C17H14BrFO2
reactant | EDTA | 44 mmol, 17 g | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | water | 50 ml | O | H2O
catalyst | zinc iodide | 44 mmol, 14 g | [I-].[Zn+2].[I-]
product | methyl 4-[3-(1-methylimidazol-2-yl)prop-1-en-1-yl]-2-(4-fluorophenyl)benzoate | Yield: 71% | CN1C(=NC=C1)CC=CC1=CC(=C(C(=O)OC)C=C1)C1=CC=C(C=C1)F | C21H19FN2O2
